US07115611B2
A] (2-Iodo-phenoxy)-acetic acid ethyl ester
9.10 g (41.4 mmol) of o-iodophenol was dissolved in 102 ml of acetone and treated subsequently at 0° C. with 14.8 g (1.1 eq.) of cesium carbonate and 4.57 ml (1.0 eq.) of ethyl bromoacetate. After vigorous stirring for 1 h at ambient temperature and filtration, the bulk of solvent was evaporated and the residue redissolved in AcOEt. Washing with water, drying over magnesium sulfate, and evaporation of the solvents finally produced 12.66 g of pure title compound as colorless oil.

reactant | o-iodophenol | 41.4 mmol, 9.10 g | IC1=C(C=CC=C1)O | C6H5IO
reactant | cesium carbonate | 14.8 g, 1.1 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 4.57 ml, 1.0 eq. | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 102 ml | CC(=O)C | C3H6O
product | (2-Iodo-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=CC=C1)I)=O | C10H11IO3
